US04839377
(i) Methyl[3-(cyanomethyl)-1H-indol-5-yl]carbamate
Following the method of Example 4(i), 5-amino-1H-indole-3-acetonitrile (0.8 g) in dimethylformamide (10 ml) was reacted with methyl chloroformate (0.5 ml) to give the title compound (0.44 g) as a white solid m.p. 146°-8° after column chromatography (Kieselgel 60, 100 g) eluted with ether.

reactant | 5-amino-1H-indole-3-acetonitrile | 0.8 g | NC=1C=C2C(=CNC2=CC1)CC#N | C10H9N3
reactant | methyl chloroformate | 0.5 ml | ClC(=O)OC | C2H3ClO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl[3-(cyanomethyl)-1H-indol-5-yl]carbamate | 0.44 g | COC(NC=1C=C2C(=CNC2=CC1)CC#N)=O | C12H11N3O2
